US06291465B1
A solution of 14.57 g (81 mmol) N-(2-methoxybenzylidene)isopropylamin in 50 ml THF was added dropwise to a Grignard reagent prepared from 18.01 g (90 mmol) 2-bromo-5-fluorotoluene and 2.19 g (90 mmol) magnesium turnings in 50 ml THF. The mixture was heated at reflux for 12 hrs. The mixture was poured with vigorous stirring into an aqueous solution of NH4Cl (25%) and stirred for 1 h. Extraction with CH2Cl2, drying (Na2SO4) and evaporation gave 20.83 g (98%) (4′-fluoro-2′-methyl-biphenyl-2-ylmethylene)-isopropyl-amine as a pale yellow oil.

reactant | N-(2-methoxybenzylidene)isopropylamin | 81 mmol, 14.57 g | COC1=C(C=NC(C)C)C=CC=C1 | C11H15NO
reactant | 2-bromo-5-fluorotoluene | 90 mmol, 18.01 g | BrC1=C(C=C(C=C1)F)C | C7H6BrF
reactant | magnesium | 90 mmol, 2.19 g | [Mg] | Mg
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | (4′-fluoro-2′-methyl-biphenyl-2-ylmethylene)-isopropyl-amine | 20.83 g, 98% | FC1=CC(=C(C=C1)C1=C(C=CC=C1)C=NC(C)C)C | C17H18FN
